Name:  ___                      Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
Lethargy
 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
Mr. ___ is a ___ with dementia, CAD status post PCI x3 in 
___, CVA in ___, and diet-controlled diabetes mellitus 
who presents with lethargy. He is minimally communicative and 
hard of hearing at baseline, and history is obtained in 
discussion with his daughter ___ and ___. He was 
reportedly in his usual state of health until 2.5 days prior to 
admission, when his daughter, with whom he lives, noted him to 
be more lethargic than usual with generalized weakness and 
continuing to drink fluids, but eating essentially nothing. 
According to his daughter, he has experienced an ongoing 
nonproductive cough, but otherwise denies specific complaints, 
including headache, URI symptoms, chest pain, shortness of 
breath, nausea, abdominal pain, dysuria, or loose stools, though 
his daughter speculates that perhaps he has been stooling less 
frequently. He has not been confused per se. At baseline, he has 
some lower extremity weakness without specific post-CVA deficits 
and is able to ambulate slowly with a walker and/or cane. He 
lives in a second-floor apartment with his daughter, but 
reportedly has been safe by a physical and/or occupational 
therapist. His appetite is variable, but he has been evaluated 
by a speech and swallow therapist and is permitted to eat 
"moistened" liquids and drink full liquids through a straw. He 
is not incontinent of urine at baseline, but wears briefs at all 
times in case he is unable to make it to the bathroom 
expeditiously. His daughter notes that he is stoic in general 
and rarely complains, but that lethargy is often a harbinger of 
infection, including recent pansenstive Klebsiella urinary tract 
infection in ___. When she contacted his Atrius providers 
with her father's symptoms, she was advised to bring him to the 
ED for evaluation.  
 
Past Medical History:
PAST MEDICAL HISTORY:  
CAD status post BMS x3 in ___  
Dementia  
CVA in ___  
Noninsulin-dependent diabetes mellitus  
Hyperlipidemia  
Presumed prostate cancer  
Presumed renal cell carcinoma  
Hearing loss  
Depression  
 
Social History:
___
Family History:
FAMILY HISTORY:  
Unable to elicit.  

 
Physical Exam:
Admission Physical Exam
Vitals - 99.3, 122/66, 16, 95% RA  
GENERAL: Sleeping, but easily rousable to voice, NAD  
HEENT: EOM grossly intact, anicteric sclerae, pink conjunctivae, 
patent nares, MM dry  
NECK: nontender supple neck  
CARDIAC: Distant heart sounds, no murmurs  
LUNG: CTAB, no wheezes, rales, rhonchi, breathing comfortably 
without use of accessory muscles  
ABDOMEN: nondistended, +BS, nontender in all quadrants  
EXTREMITIES: moving all extremities well, no edema  
NEURO: Unable to engage in conversation (reportedly consistent 
with baseline), moving all 4 extremities spontaneously and 
symmetrically, withdraws to painful stimuli, face symmetric  
SKIN: warm and well perfused, no excoriations or lesions, no 
rashes  

Discharge Physical Exam
Vitals:
General: Alert, oriented to name and place, NAD
HEENT: PERRL, Anicteric sclerae, moist mucosa, normal chewing 
motion of mouth
Neck: Supple, no elevated JVD
Lungs: clear to auscultation bilaterally, no crackles or rales, 
breathing comfortably without use of accessory muscles
CV: regular rate and rhythm, normal heart sounds, no murmurs or 
regurg
Abdomen: no suprapubic tenderness, Bowel sounds present, not 
tender to palpation, no organomegaly
Ext: well perfused extermities, 2+ pulses, no pedal edema
Neuro: able to engage in conversation using listening device, 
cranial nerves ___ intact, no focal motor defecits

 
Pertinent Results:
Admission Labs
___ 03:45PM BLOOD WBC-15.8* RBC-3.74* Hgb-12.3* Hct-38.0* 
MCV-102* MCH-32.8* MCHC-32.3 RDW-13.9 Plt ___
___ 03:45PM BLOOD Neuts-84.9* Lymphs-7.7* Monos-6.7 Eos-0.5 
Baso-0.3
___ 03:45PM BLOOD Glucose-179* UreaN-17 Creat-1.2 Na-140 
K-4.0 Cl-101 HCO3-28 AnGap-15
___ 04:49PM BLOOD Glucose-178* Lactate-2.7* K-4.1
___ 06:20PM URINE  COLOR-Straw APPEAR-Hazy SP ___
___ 06:20PM URINE  BLOOD-NEG NITRITE-NEG PROTEIN-TR 
GLUCOSE-NEG KETONE-TR BILIRUBIN-NEG UROBILNGN-NEG PH-7.0 LEUK-LG
___ 06:20PM URINE  RBC-5* WBC-159* BACTERIA-FEW YEAST-NONE 
EPI-0
___ 06:20PM URINE  MUCOUS-RARE

Discharge Labs
___ 09:10AM BLOOD WBC-9.8 RBC-3.23* Hgb-10.2* Hct-33.5* 
MCV-104* MCH-31.5 MCHC-30.3* RDW-14.3 Plt ___
___ 09:10AM BLOOD Glucose-102* UreaN-16 Creat-0.9 Na-144 
K-3.5 Cl-111* HCO3-23 AnGap-14
___ 09:10AM BLOOD Calcium-8.6 Phos-2.5* Mg-2.0

Micro
URINE CULTURE (Preliminary): 
      KLEBSIELLA PNEUMONIAE.    >100,000 ORGANISMS/ML.. 
         Cefazolin interpretative criteria are based on a dosage 
regimen of
         2g every 8h. 

                              SENSITIVITIES: MIC expressed in 
MCG/ML
                      
_________________________________________________________
                             KLEBSIELLA PNEUMONIAE
                             |   
AMPICILLIN/SULBACTAM--     8 S
CEFAZOLIN-------------   <=4 S
CEFEPIME--------------   <=1 S
CEFTAZIDIME-----------   <=1 S
CEFTRIAXONE-----------   <=1 S
CIPROFLOXACIN---------<=0.25 S
GENTAMICIN------------   <=1 S
MEROPENEM-------------<=0.25 S
NITROFURANTOIN--------    ___ I
PIPERACILLIN/TAZO-----   <=4 S
TOBRAMYCIN------------   <=1 S
TRIMETHOPRIM/SULFA----   <=1 S
 
Brief Hospital Course:
___ yo demented male with history of CAD s/p PCI x ___, CVA in 
___, and diet controlled diabetes presented with lethargy

Active Diagnoses

#Urinary tract infection - patient has past history of 
klebsiella pan-sensitive urinary tract infection and presented 
with lethargy and increased combativeness as histoy provided by 
daughter/caretaker.  WBC was elevated with predominant left 
shift and UA was consistent with UTI.  Urine cultures were sent 
and show >100K gram negative rods, speciated to Klebsiella 
Pneumoniae and pan-sensitive except to nitrofurantoin.  Patient 
was treated with 1g IV ceftriaxone q24h while inpatient.  
Lethargy improved over the course of his stay and he returned to 
baseline mental status. The patient was discharged on 1 tab 
Bactrim DS q12h to complete antibiotic course x 7 days (until 
___ requiring 7 additional doses).

Chronic Diagnoses

#Dementia- Delerium as above resolved to baseline dementia. 
Dementia is also related to hard of hearing. Patient was 
evaluated by physical therapy, cooperative with eval, and deemed 
safe to go home with 24 hour assistance  

#CAD s/p PCIx3 and CVA- Documented history of this issues since 
___.  Patient remained clinically stable on his regimen of 81mg 
ASA and pravastatin and with plans to followed by Drs. ___ 
___ at ___ and ___ (Geriatrics at ___).

Transitional issues
- please continue Bactrim DS 1 tab BID for UTI until ___ (7 
doses)
- please follow up with blood cultures, pending 
- please follow up regarding home services (to be setup by 
patient's family)
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Aspirin 81 mg PO DAILY 
2. Pravastatin 40 mg PO DAILY 
3. Nitroglycerin SL 0.4 mg SL PRN chest pain 

 
Discharge Medications:
1. Aspirin 81 mg PO DAILY 
2. Pravastatin 40 mg PO DAILY 
3. Nitroglycerin SL 0.4 mg SL PRN chest pain 
4. Sulfameth/Trimethoprim DS 1 TAB PO BID Duration: 7 Doses 

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Primary diagnosis:
1. Urinary tract infection

Secondary diagnosis:
1. CAD
2. Hyperlipidemia

 
Discharge Condition:
Discharge condition: stable
Mental status: alert to self only
Ambulatory status: does not ambulate 

 
Discharge Instructions:
Dear Mr. ___,

You were admitted tot he hopsital because you had increasing 
lethargy and altered mental status.  You were found to have 
evidence of a urinary tract infection and were treated with 
antibiotocs.  Your mental status improved during the course of 
your stay.

We wish you continued good health.

Your ___ Team
 
Followup Instructions:
___